US08008298B2
A mixture of 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-3-methyl-butan-1-one and 1-(2-chloro-5H-pyrrolo[2,3-b]pyrazin-7-yl)-3-methyl-butan-1-one (55 mg), potassium carbonate (95 mg, 0.69 mmol), 3,4,5-trimethoxyphenylboronic acid (47 mg, 0.22 mmol) and Pd(dppf)Cl2-DCM (16 mg, 0.02 mmol) was placed in a 5 ml microwave vial. The vial was capped and purged with nitrogen. Solvent was added (2 ml of 20% aqueous dioxane) and the vial was purged again with nitrogen. The reaction mixture was heated in a microwave reactor at 150° C. for 30 min. The solvents were evaporated and the crude product was purified by flash chromatography using a gradient of 20% ethyl acetate in hexanes up to 50% to yield 30 mg of 3-methyl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butan-1-one. MS: (M+H)+=370, MP=210.0-211.4° C.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-3-methyl-butan-1-one | BrC=1N=C2C(=NC1)NC=C2C(CC(C)C)=O | C11H12BrN3O
reactant | 1-(2-chloro-5H-pyrrolo[2,3-b]pyrazin-7-yl)-3-methyl-butan-1-one | 55 mg | ClC=1N=C2C(=NC1)NC=C2C(CC(C)C)=O | C11H12ClN3O
reactant | potassium carbonate | 0.69 mmol, 95 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4,5-trimethoxyphenylboronic acid | 0.22 mmol, 47 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
catalyst | Pd(dppf)Cl2 DCM | 0.02 mmol, 16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-methyl-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-butan-1-one | 30 mg | CC(CC(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)C | C20H23N3O4
